US07956216B2
10B: N-(3-pyridylmethyl)-3-phenylbenzamide
Using Preparation Method 2, N-(3-pyridylmethyl)-3-bromobenzamide was reacted with phenylboronic acid. The resulting reaction mixture was purified using SiO2 with CH2Cl2/MeOH 98:2 to 90:10. A colourless oil was obtained (87%). NMR 1H (ppm, CDCl3): 8.87 (s, 1H), 8.73 (d, J4=4.5 Hz, 1H), 8.28 (t, J4=2.0 Hz, 1H), 8.03-7.94 (m, 3H), 7.89 (d, J3=6.9 Hz, 2H), 7.75-7.50 (m, 5H), 6.17 (br. t., 1H), 4.91 (d, J3=5.9 Hz, 2H).

reactant | N-(3-pyridylmethyl)-3-bromobenzamide | N1=CC(=CC=C1)CNC(C1=CC(=CC=C1)Br)=O | C13H11BrN2O
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N-(3-pyridylmethyl)-3-phenylbenzamide | N1=CC(=CC=C1)CNC(C1=CC(=CC=C1)C1=CC=CC=C1)=O | C19H16N2O
